US06821977B2
9-Amino-3,4-dihydro-2H-benzo[b][1,4]dioxepine-6-carboxylic acid methyl ester
To a mixture of 9-nitro-3,4-dihydro-2H-benzo[b][1,4]dioxepine-6-carboxylic acid methyl ester (C-5; 2.53 g) and Pd/C (450 mg) suspended in 90 mL of a 1/1 mixture of THF/CH3OH was added HCO2HN4 (3.153 g) and the resulting reaciton heated to 70° C. for 30 minutes. The reaction was diluted with 900 mL of diethyl ether. The resulting solution was filtered through celite and the organic solvent removed in vacuo to yield 2.152 g of white crystalline soldid. AP+ 192 (—OCH3).

reactant | 9-nitro-3,4-dihydro-2H-benzo[b][1,4]dioxepine-6-carboxylic acid methyl ester | COC(=O)C1=CC=C(C=2OCCCOC21)[N+](=O)[O-] | C11H11NO6
reactant | THF CH3OH | C1CCOC1.CO
solvent | diethyl ether | 900 mL | C(C)OCC | C4H10O
catalyst | Pd/C | 450 mg | [Pd] | Pd
product | 9-Amino-3,4-dihydro-2H-benzo[b][1,4]dioxepine-6-carboxylic acid methyl ester | COC(=O)C1=CC=C(C=2OCCCOC21)N | C11H13NO4
